US09351962B2
To a solution of 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid (618 mg, 3.0 mmol) in anhydrous CH2C2 (6 mL) was slowly added (COCl)2 (0.3 mL, 3.4 mmol) at −10° C. followed by DMF (3 drops). The reaction mixture was stirred at −10° C. for 0.5 h. The excess (COCl)2 was removed under vacuum. The acid chloride (10.5 mmol) was then dissolved in anhydrous CH2Cl2 (3 mL) and was slowly added to a solution of (R)-N-((S)-(2-aminothiazol-5-yl)(2-chloro-4-fluorophenyl)methyl)-2-methylpropane-2-sulfinamide (648 mg, 1.8 mmol) and Et3N (1.8 mL, 6 mmol) in anhydrous CH2Cl2 (3 mL). The reaction mixture was stirred at room temperature for 1 h, diluted with CH2Cl2 and washed with 1N HCl, NaHCO3 and brine. The organic layer was separated from the aqueous layer and dried over MgSO4 and concentrated. The crude product was purified by column chromatography (40-60% EtOAc/Hexane) to provide 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-((S)-(2-chloro-4-fluorophenyl)((R)-1,1-dimethylethylsulfinamido)methyl)thiazol-2-yl)cyclopropanecarboxamide as a colorless solid (680 mg, 69%). 1H-NMR (400 MHz, CDCl3) δ 8.60 (s, 1H), 7.60 (dd, J=8.7, 5.9 Hz, 1H), 7.28 (d, J=2.0 Hz, 1H), 7.13 (dd, J=8.3, 2.6 Hz, 1H), 7.05 (td, J=8.2, 2.6 Hz, 1H), 6.90 (td, J=8.3, 1.7 Hz, 2H), 6.83 (d, J=7.9 Hz, 1H), 6.18 (d, J=4.3 Hz, 1H), 6.04 (s, 2H), 3.90 (d, J=4.3 Hz, 1H), 1.73 (td, J=5.4, 2.0 Hz, 2H), 1.28 (t, J=7.1 Hz, 2H), 1.29 (s, 9H). HPLC ret. time 3.65 min, 10-99% CH3CN, 5 min run; ESI-MS 550.5 m/z (MH+).

reactant | 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid | 3.0 mmol, 618 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)O | C11H10O4
reactant | (COCl)2 | 3.4 mmol, 0.3 mL | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | (R)-N-((S)-(2-aminothiazol-5-yl)(2-chloro-4-fluorophenyl)methyl)-2-methylpropane-2-sulfinamide | 1.8 mmol, 648 mg | NC=1SC(=CN1)[C@@H](N[S@](=O)C(C)(C)C)C1=C(C=C(C=C1)F)Cl | C14H17ClFN3OS2
reactant | Et3N | 6 mmol, 1.8 mL | CCN(CC)CC | C6H15N
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-((S)-(2-chloro-4-fluorophenyl)((R)-1,1-dimethylethylsulfinamido)methyl)thiazol-2-yl)cyclopropanecarboxamide | 680 mg, 69% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2SC(=CN2)[C@@H](N[S@](=O)C(C)(C)C)C2=C(C=C(C=C2)F)Cl | C25H25ClFN3O4S2
